US04738970
737 Milligrams of 2-chloro-imidazo[4,5-b]pyridine, 0.4 g of thiourea and 20 ml of ethanol were mixed together and this mixture was refluxed for 2 hours. Next, 666 mg of 2-chloromethyl-3,5-dimethyl-4-methoxypyridine hydrochloride was added to the reaction mixture and refluxed for 5 hours. After the reaction was completed, ethanol was removed by evaporation, then to the residue thus obtained was added water and this solution was extracted with chloroform. The chloroform extract was dried with anhydrous magnesium sulfate and chloroform was removed by evaporation. The residue thus obtained was recrystallized from ethanol to obtain 450 mg of 2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]imidazo[4,5-b]pyridine in the form of white powdery crystals. Melting point: 186°-188° C.

reactant | 2-chloro-imidazo[4,5-b]pyridine | ClC=1NC=2C(=NC=CC2)N1 | C6H4ClN3
reactant | thiourea | 0.4 g | NC(=S)N | CH4N2S
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | 2-chloromethyl-3,5-dimethyl-4-methoxypyridine hydrochloride | 666 mg | Cl.ClCC1=NC=C(C(=C1C)OC)C
solvent | water | O | H2O
product | 2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]imidazo[4,5-b]pyridine | 450 mg | CC=1C(=NC=C(C1OC)C)CSC=1NC=2C(=NC=CC2)N1 | C15H16N4OS
